Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Consfusion, not eating at home
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ y male with  A-fib/A-flutter s/p cardioversion
___, metastatic colorectal cancer to liver, papillary thyroid
cancer s/p lobectomy, grade 1 pancreatic NET, bipolar presenting
with change in mental status.

 Patient himself is awake and responds to commands. He is sleepy
(5 AM). He did not know where he was or why he is in the
hospital.

 His wife is concerned about the change in his mental status
which is new. History mstly given by wife and daughter. 
According
to them, patient was ambulating and was in normal mentation a
week ago, they feel things have changed ever since patient
underwent pacemaker placement. They are very concerned about
patient since patient does not show interest in any activities.
He seems to be drowsy most of the times and speaks very little.

     His wife reports that patient was able to care for himself
prior to previous hospitalization but now he is unable to do
anything on his own. This is a major change in his personality
and family is rightfully worried about this.

 I tried to talk to patient, but his responses are limited and
brief. He basically denied anything being wrong with him (also
reported that he has no known cardiac conditions or arrhythmias-
despite pacer a week ago)

 Family tired as they were in ER since 8PM yesterday and they 
had
to go home. Will need to re attempt to get more history 
tomorrow.
Wife requested neuro consult again.

 
Past Medical History:
- s/p cardioversion for Aflutter on ___
- metastatic colorectal cancer with liver mets
  - undergoing sterotactic body radiotherapy with RadOnc
- thyroid cancer s/p lobectomy in ___
- grade 1 neuroendocrine tumor in pancreas
- papillary thyroid cancer s/p total thyroidectomy ___ and 
I-131
- right adrenal adenoma
- bipolar disorder
- hypertension
- erectile dysfunction
- chronic back problems and sciatica s/p laminectomy ___
- s/p left hip replacement ___
- s/p closure ASD ___ 
 
Social History:
___
Family History:
Mother - DVT
___ any family history of strokes.
Children healthy.
 
Physical Exam:
ADMISSION EXAM:
General:  NAD
VITAL SIGNS: PO 133 / 87 R Lying 66 18 94 RA 
HEENT:  No nystagmus. NC AT. dry chapped lips.
CV:  RRR, NL S1S2 no S3S4 MRG, pacer site looks clean. 
PULM:  CTAB
ABD:  BS+, soft, NTND, 
Colostomy bag seen. Previous surgical scar (L shaped) seen.
LIMBS:  No edema, clubbing, tremors, or asterixis
SKIN:  No rashes or skin breakdown
NEURO:  Cranial nerves II-XII are within normal limits excluding
visual acuity which was not assessed, no nystagmus; 
Normal strength and sensation in all 4 extremities. No tremors 
or
asterixis.

DISCHARGE EXAM:
CONSTITUTIONAL NAD well-appearing 
EYES: EOMI, conjunctive clear, anicteric
ENT: MMM
CV: irregular rate, Nl S1/S2, no MRG
RESP: CTA, no w/r/r
GI: +BS, NT/ND
GU: No foley
EXT: WWP, no CCE
SKIN: no rashes 
NEURO: aao x3, CNs ___ intact and ___ strength throughout.   
Aaox3 and able to do days of week backwards
PSYCH: appropriate, normal affect, not depressed

 
Pertinent Results:
LABS ON ADMISSION:
___ 09:20PM BLOOD WBC-10.1* RBC-4.07* Hgb-11.1* Hct-36.6* 
MCV-90 MCH-27.3 MCHC-30.3* RDW-16.2* RDWSD-52.9* Plt ___
___ 09:20PM BLOOD Plt ___
___ 09:20PM BLOOD Glucose-92 UreaN-16 Creat-1.5* Na-136 
K-3.8 Cl-101 HCO3-25 AnGap-14
___ 09:20PM BLOOD ALT-10 AST-15 AlkPhos-165* TotBili-0.8
___ 09:20PM BLOOD Albumin-3.3* Calcium-10.7* Phos-2.2* 
Mg-1.8
___ 09:20PM BLOOD Lithium-2.2*
___ 07:30AM BLOOD Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 08:19AM BLOOD freeCa-1.40*

LABS ON DISCHARGE:

___ 06:18AM BLOOD WBC-5.4 RBC-3.06* Hgb-8.4* Hct-27.8* 
MCV-91 MCH-27.5 MCHC-30.2* RDW-18.4* RDWSD-60.6* Plt ___
___ 10:30AM BLOOD Hct-31.1*
___ 06:18AM BLOOD ___ PTT-32.0 ___
___ 06:00AM BLOOD Glucose-85 UreaN-10 Creat-1.2 Na-138 
K-5.0 Cl-105 HCO3-26 AnGap-12
___ 03:30PM BLOOD ALT-17 AST-18 AlkPhos-139* TotBili-1.0
___ 06:00AM BLOOD Calcium-9.6 Phos-2.6* Mg-1.9
___ 06:18AM BLOOD Iron-33*
___ 06:18AM BLOOD calTIBC-311 Ferritn-56 TRF-239
___ 06:00AM BLOOD Lithium-0.2*

IMAGING: 

___ CXR
Increase mild to moderate cardiomegaly and/or pericardial 
effusion.  No
evidence of cardiac decompensation or tamponade physiology.  Low 
lung volumes.

___ Head CT
No evidence of acute large territorial infarct.  The known right 
frontal lobe
infarct seen on MR from ___ppreciated 
on this exam.
No evidence of hemorrhagic transformation.

EEG
 This is an abnormal continuous ICU monitoring study because of
diffuse slowing of the background, indicative of mild to 
moderate
encephalopathy, which is non-specific with regard to etiology. 
Of note, on
single channel EKG an irregularly irregular rhythm. There are no
electrographic seizures, epileptiform discharges, or pushbutton 
events.
 
___ ECHO
The left atrium is normal in size. There is mild symmetric left 
ventricular hypertrophy with normal cavity size. Overall left 
ventricular systolic function is low normal (LVEF 50-55%). There 
is considerable beat-to-beat variability of the left ventricular 
ejection fraction due to an irregular rhythm/premature beats. 
Right ventricular chamber size is normal with depressed free 
wall contractility. The diameters of aorta at the sinus, 
ascending and arch levels are normal. The aortic valve leaflets 
(3) are mildly thickened but aortic stenosis is not present. 
Trace aortic regurgitation is seen. The mitral valve leaflets 
are mildly thickened. There is no mitral valve prolapse. Trivial 
mitral regurgitation is seen. The estimated pulmonary artery 
systolic pressure is normal. There is no pericardial effusion. 

IMPRESSION: Mild symmetric left ventricular systolic function 
with low normal global systolic function in the context of 
frequent ventricular ectopy. Depressed global right ventricular 
systolic function. No pericardial effusion. 

 
Brief Hospital Course:
___ y male with hx Afib/flutter, metastatic colorectal cancer to 
liver, papillary thyroid cancer s/p lobectomy, grade 1 
pancreatic NET, bipolar disorder, recent admission to cardiology 
___ where cardioversion was performed and ultimately PPM 
was placed for bradycardia, course c/b likely embolic stroke, 
re-admitted ___ with encephalopathy and elevated lithium 
levels, hypercalcemia, urinary retention.

# Acute metabolic Encephalopathy.  Neurology and psychiatry 
consulted.  Did not appear consistent with a stroke syndrome and 
head CT reassuring.  EEG neg for sz.  Felt ultimately to be due 
to lithium toxicity, renal failure, hypercalcemia.  At the time 
of discharge, pt was near his baseline, aao x3, able to do days 
of the week backwards but still stated that he felt a little 
"foggy."

# Hx bradycardia, Atrial Fibrillation, s/p PAcemaker ___ now with ? of PAF with abberancy yesterday vs. NSVT.  
HVMAcardiology (___) indicated that most c/w VP for a tach.  
Dr. ___ increase in BB dose to 37.5 mg to try to 
suppress PVCs and PAF further, this done and tolerated well. EP 
interrogated pacemaker and inspected site without acute clinical 
concerns. Pt to f/u with cardiology as an outpt.

# Recent R frontal stroke: Stable without overt sequellae.  
Neurology consulted, did not recommend further brain imaging 
beyond head CT.  INR was supertherapeutic on admission and pts 
warfarin was titrated to therapeutic levels and pt was 
ultimately discharged on 4 mg daily with close f/u, especially 
given initiation of depacote.

# HFPEF - echo stable, asymptomatic.  Seen by ___ cardiology 
here.  Will follow as outpatient. 

___, CKD - improved with fluids.  Baseline Cr (likely 1.1) 
achieved.
     
# bipolar disorder: Given now two hospitalizations for lithium 
toxicity and fluctuating renal function, advancing age and 
medical comorbidity, lithium was held.  Psychiatry was consulted 
and recommended depakote which was started without incident.  Pt 
was scheduled with psychiatry follow up prior to discharge.

# Hypercalcemia - slight, likely contributing to encephalopathy 
on presentation, and likely due to lithium toxicity.  Improved 
with hydration and torsemide calciuresis, level at d/c had 
normalized.

# Urinary retention on presentation.  Required urinary catheter 
for 36 hours - foley removed, no issues with voiding since

# Iron deficiency anemia: stable at discharge.  ___ be due to 
slow bleed from known malignancy, however no e/o active 
bleeding.  Recommend outpt follow up and consideration of iron 
supplementation.

# elevated alk phos: mild and improving, would monitor as outpt 
and pursue additional w/u if persistently elevated.

# Metastatic colon cancer: pt was advised to schedule f/u with 
his oncologist

# Hypertension: BPs well controlled off meds while in the 
hospital, therefore they were not continued on discharge.  
Please check BPs as an outpt and add back antihypertensives as 
needed.

# Foot care: pts wife requesting podiatry for foot care while in 
the hospital.  Please arrange outpt podiatry f/u.

# Deconditioning: pt with weakness at time of dc but cleared by 
___ to go home with intermittent assistance.  He will have home 
___ and home safety eval.

Pt is stable for DC.  >30 min spent on dc related activities.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Allopurinol ___ mg PO DAILY 
2. Gabapentin 900 mg PO BID 
3. Levothyroxine Sodium 200 mcg PO 6X/WEEK (___) 
4. Levothyroxine Sodium 300 mcg PO 1X/WEEK (___) 
5. Tamsulosin 0.4 mg PO QHS 
6. Calcium 500 + D (calcium carbonate-vitamin D3) 500 
mg(1,250mg) -200 unit oral QID 
7. Vitamin D ___ UNIT PO DAILY 
8. Torsemide 10 mg PO DAILY 
9. Lithium Carbonate 1200 mg PO QAM 
11. Metoprolol Succinate XL 25 mg PO DAILY 
12. Warfarin 7.5 mg PO 4X/WEEK (___) 
13. Warfarin 8.75 mg PO 3X/WEEK (___) 
14. Lisinopril 40 mg PO DAILY 
15. amLODIPine 5 mg PO DAILY 
16. tadalafil 20 mg oral as directed 
17. Acetaminophen 650 mg PO QID:PRN Pain - Mild 

 
Discharge Medications:
1.  Divalproex (EXTended Release) 500 mg PO QHS 
RX *divalproex [Depakote ER] 500 mg 1 tablet(s) by mouth at 
bedtime Disp #*30 Tablet Refills:*0 
2.  Gabapentin 300 mg PO DAILY Duration: 3 Days 
RX *gabapentin 300 mg 1 capsule(s) by mouth daily Disp #*5 
Capsule Refills:*0 
3.  Metoprolol Succinate XL 37.5 mg PO DAILY 
RX *metoprolol succinate 25 mg 1.5 tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*0 
4.  Warfarin 4 mg PO DAILY16 
RX *warfarin [Coumadin] 4 mg 1 tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*0 
5.  Acetaminophen 1000 mg PO BID:PRN Pain - Mild  
6.  Allopurinol ___ mg PO DAILY  
7.  Calcium 500 + D (calcium carbonate-vitamin D3) 500 
mg(1,250mg) -200 unit oral QID  
8.  Levothyroxine Sodium 200 mcg PO 6X/WEEK (___)  

9.  Levothyroxine Sodium 300 mcg PO 1X/WEEK (___)  
10.  tadalafil 20 mg oral as directed  
11.  Tamsulosin 0.4 mg PO QHS  
12.  Torsemide 10 mg PO DAILY  
13.  Vitamin D ___ UNIT PO DAILY  
14.Outpatient Lab Work
Please have INR drawn on ___ and sent to Dr ___ 
___ clinic.

ICD___ code: ___

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Encephalopathy due to lithium toxicity, with resultant and 
contributing effects of hypercalcemia, acute renal failure, and 
possibly gabapentin. 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Mr ___,
You were admitted to the hospital with confusion, which we think 
was due to high lithium levels.  You improved with 
discontinuation of this medication.  You were switched to a new 
medication, Depakote, which you should take on discharge from 
the hospital.  It is very important that you follow up with Dr 
___ as well as Dr. ___ discharge.  Additionally, 
please follow up with your new psychiatrist who can monitor your 
psychiatric medications.  You should also follow up with your 
oncologist as previously scheduled.  Your blood pressure was 
well controlled without medications while you were in the 
hospital, therefore your amlodipine and lisinopril were stopped. 
 Please discuss with your doctor if and when these medications 
should be restarted.  Finally, please have your INR checked on 
___.  

You are still somewhat weak and we therefore recommend that you 
be seen by physical therapy at home, and we recommend that you 
have intermittent assistance from family as needed while at home 
and when leaving your home.  

Podiatry was unable to see you while you were in the hospital.  
Please talk with your PCP who can arrange this after discharge.
 
Followup Instructions:
___